US05439928
b) 4-(4,4-diphenyl-1-butenyl)-1H-imidazole
4-(1-hydroxy-4,4-diphenylbutyl)-1H-imidazole (3,0 g) and 20 g of anhydrous potassium hydrogen sulfate are heated at 150° C. for 4 hours. The mixture is cooled and 90 ml ethanol is added to dissolve the product. The mixture is made alkaline with sodium hydroxide. The product is extracted into methylene chloride, washed with water and evaporated to dryness. The product is then made to hydrochloride salt with dry hydrogen chloride in ethyl acetate. M.p. above 240° C.

reactant | 4-(1-hydroxy-4,4-diphenylbutyl)-1H-imidazole | 3,0 g | OC(CCC(C1=CC=CC=C1)C1=CC=CC=C1)C=1N=CNC1 | C19H20N2O
reactant | potassium hydrogen sulfate | 20 g | S(=O)(=O)(O)[O-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 4-(4,4-diphenyl-1-butenyl)-1H-imidazole | C1(=CC=CC=C1)C(CC=CC=1N=CNC1)C1=CC=CC=C1 | C19H18N2
